US07674797B2
To the preheated solution (50° C.) of 2,3-dibromo-propionic acid methyl ester in toluene (40 ml) and Et3N (5.80 ml, 41.6 mmol), was added N,N′-dibenzyl-ethane-1,2-diamine (4.90 ml, 20.8 mmol) dropwise. Resulting white slurry was heated to reflux to a clear solution and the solution was stirred at reflux overnight. After cooled to room temperature, the reaction mixture was extracted with 2N HCl (ca. 500 ml) and the extract was neutralized with 4N NaOH. The aqueous layer was extracted with EtOAc three times. The organic layer was washed with brine, dried over MgSO4, and concentrated to give 1,4-dibenzyl-piperazine-2-carboxylic acid methyl ester (5.73 g, 84.8%) as a colorless oil: HPLC-MS (ESI): Calcd for C20H24N2O2[M+H]+ 325, found: 325.

reactant | 2,3-dibromo-propionic acid methyl ester | COC(C(CBr)Br)=O | C4H6Br2O2
reactant | Et3N | 41.6 mmol, 5.80 ml | CCN(CC)CC | C6H15N
reactant | N,N′-dibenzyl-ethane-1,2-diamine | 20.8 mmol, 4.90 ml | C(C1=CC=CC=C1)NCCNCC1=CC=CC=C1 | C16H20N2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 1,4-dibenzyl-piperazine-2-carboxylic acid methyl ester | 5.73 g, 84.8% | COC(=O)C1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C20H24N2O2
